US09315521B2
2-chloro-1-methyl-3-nitrobenzene (1 g, 5.8 mmol) was dissolved in CCl4 (10 mL), then N-bromosuccinimide (2.28 g, 12.8 mmol) and benzoyl peroxide (846 mg, 3.5 mmol) were added. The mixture was stirred overnight at reflux. The solid was removed by filtration, and the filtrate was washed with water and dried over sodium sulfate. After evaporation of the solvent, the residue was dissolved in DCM and purified on silica gel using 30% hexane/AcOEt to afford 1-(bromomethyl)-2-chloro-3-nitrobenzene (686 mg, 47% yield); 1H NMR (400 MHz, CDCl3): δ 4.64 (s, 2H), 7.42 (t, J=7.9 Hz, 1H), 7.67 (dd, J=1.6 Hz, J=7.9 Hz, 1H), 7.75 (dd, J=1.6 Hz, J=7.9 Hz, 1H).

reactant | 2-chloro-1-methyl-3-nitrobenzene | 5.8 mmol, 1 g | ClC1=C(C=CC=C1[N+](=O)[O-])C | C7H6ClNO2
reactant | N-bromosuccinimide | 12.8 mmol, 2.28 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 3.5 mmol, 846 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(bromomethyl)-2-chloro-3-nitrobenzene | 686 mg, 47% yield | BrCC1=C(C(=CC=C1)[N+](=O)[O-])Cl | C7H5BrClNO2
